US04898941
Into 40 ml of 20% aqueous solution of sulfuric acid was dissolved 20 g of N-phenylpyrrolidine. To the solution was added 7.2 g of pyruvic acid and the mixture was heated with reflux for 16 hours. The reaction mixture was, after cooled, diluted with 300 ml of water and adjusted to pH 6 with addition of 20% aqueous solution of sodium hydroxide. The precipitated crystal was collected by filtration. The crystal was recrystallized from benzene to obtain 18.5 g (yielded 75%) of 2,2-bis(4-pyrrolidinophenyl)propionic acid as white crystal, having a melting point of 174°~176° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-phenylpyrrolidine | 20 g | C1(=CC=CC=C1)N1CCCC1 | C10H13N
reactant | pyruvic acid | 7.2 g | C(C(=O)C)(=O)O | C3H4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | 2,2-bis(4-pyrrolidinophenyl)propionic acid | 18.5 g, 75% | N1(CCCC1)C1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)N1CCCC1 | C23H28N2O2
